US09260439B2
Step 1: Preparation of (3S)-4-(4,6-dimethoxypyrimidin-2-yl)-3-methylmorpholine
A solution of (S)-3-methylmorpholine (4.86 g, 48.0 mmol), 2-chloro-4,6-dimethoxypyrimidine (6.98 g, 40 mmol) and DIPEA (8.36 mL, 48.0 mmol) in DMSO (40 mL) was heated at 100° C. in a sealed flask for 22 h, and then allowed to cool to room temperature. The reaction mixture was placed in an ice bath, and water (120 mL) was added drop-wise. The mixture was decanted and the gummy precipitate was dissolved in ethyl acetate. The ethyl acetate solution was washed with brine, dried with MgSO4, filtered and concentrated by rotary evaporation to give the title compound (8.58 g, 90%). 1H NMR (400 MHz, CDCl3) δ 5.40 (s, 1 H), 4.69 (qd, J=6.8, 3.1 Hz, 1 H), 4.33 (dd, J=13.7, 2.9 Hz, 1 H), 4.01-3.93 (m, 1 H), 3.86 (s, 6 H), 3.78-3.73 (m, 1 H), 3.73-3.66 (m, 1 H), 3.54 (ddd, J=12.2, 11.4, 3.1 Hz, 1 H), 3.25 (ddd, J=13.5, 12.4, 3.8 Hz, 1 H), 1.29 (d, J=6.8 Hz, 3 H). m/z (APCI+) for C11H17N3O3 240.0 (M+H)+.

reactant | (S)-3-methylmorpholine | 48.0 mmol, 4.86 g | C[C@@H]1NCCOC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxypyrimidine | 40 mmol, 6.98 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | DIPEA | 48.0 mmol, 8.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 120 mL | O | H2O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | (3S)-4-(4,6-dimethoxypyrimidin-2-yl)-3-methylmorpholine | 8.58 g, 90% | COC1=NC(=NC(=C1)OC)N1[C@H](COCC1)C | C11H17N3O3
